US07030128B2
6-Bromo-2,4′-bipyridine (0.34 g, 1.44 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.13 mmol) by the method of Example 1. Purification by chromatography on silica gel eluting with isohexane on a gradient of ethyl acetate (20-100%) and trituration with isohexane gave 6-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)-2,4′-bipyridine (180 mg) as a pale yellow solid: δH (400 MHz, CDCl3) 7.43 (1H, d, J 7), 7.77 (1H, d, J 8), 7.88-7.91 (3H, m), 7.98 (1H, dd, J 8 and 8), 8.59 (1H, s), 8.80-8.85 (1H, m), 10.51 (1H, d, J 7); m/z (ES+) 342 (M++M).

reactant | 6-Bromo-2,4′-bipyridine | 1.44 mmol, 0.34 g | BrC1=CC=CC(=N1)C1=CC=NC=C1 | C10H7BrN2
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.13 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 6-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)-2,4′-bipyridine | 180 mg | FC(C1=NC=2N(C=C1)C(=CN2)C2=CC=CC(=N2)C2=CC=NC=C2)(F)F | C17H10F3N5
